US08242130B2
In a 100 mL round-bottomed flask fitted with condenser and magnetic stirrer were placed 2′-hydroxy-5′-acetoxyacetophenone (2.63 g, 13.54 mmol), 4-acetoxymethyl benzoic acid (2.63 g, 13.54 mmol) and pyridine (20 mL). POCl3 (2.07 g, 13.54 mmol) was added slowly on cooling. Then the reaction mixture was stirred for 24 h at rt under nitrogen. The reaction mixture was poured into ice water and extracted with EtOAc. The organic layer was washed with water, dried and concentrated to give product (3.0 g, 60%). A solution of this product (3.0 g, 8.10 mmol) in THF (50 mL), was added potassium t-butoxide (1.187 g, 9.72 mmol) and the reaction mixture was stirred for 24 h at rt under N2. The reaction mixture was poured into saturated aqueous solution of NH4Cl. The organic layer was separated, washed with water, dried and concentrated to give crude diketone (3.0 g, 99%). The mentioned diketone (3.0 g, 8.10 mmol) was taken into a mixture of 48% HCl (2 mL) and AcOH (25 mL) and heated at 100° C. for 1 h. The reaction mixture was cooled to rt, diluted with water and extracted with EtOAc. The organic layer was washed with water, brine, dried and concentrated to give the di-acetyl flavone (1.2 g, 74%). To a solution of the di-acetyl flavone (228 mg, 0.676 mmol) in methanol:THF (5 ml:5 mL), K2CO3 (112 mg, 0.811 mmol) was added and stirred for 2 h at rt, then the reaction mixture was neutralized by dilute HCl and extracted with EtOAc. The combined organic layers were washed with water, brine, dried and concentrated to give a crude product, which was purified by column chromatography using 2% MeOH in dichloromethane, to give 100 mg of 6-hydroxy-2-(4-hydroxymethylphenyl)chromen-4-one (50%). MS (ES) m/z: 269.90 (M+1), 268.91 (M); Mp. 262-265° C.

reactant | di-acetyl flavone | 0.676 mmol, 228 mg | C(C)(=O)C1=C2C(C(=C(OC2=CC=C1)C1=CC=CC=C1)C(C)=O)=O | C19H14O4
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | K2CO3 | 0.811 mmol, 112 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 6-hydroxy-2-(4-hydroxymethylphenyl)chromen-4-one | 100 mg, 50% | OC=1C=C2C(C=C(OC2=CC1)C1=CC=C(C=C1)CO)=O | C16H12O4
